US09227955B2
Preparation of 2-(1-Benzylpiperidin-4-ylamino)nicotinic acid
In 500 ml of ortho-xylene, 100 g of 2-chloronicotinonitrile, 108.82 g of anhydrous potassium carbonate, and 133.83 ml of 4-amino-1-benzylpiperidine were together stirred for 24 hrs under reflux. This reaction mixture was cooled to room temperature, added with 500 ml of ethyl acetate and 1,000 ml of pure water, and adjusted to a pH of about 2-3 with conc. HCl. The aqueous fraction thus formed was obtained, washed again with 300 ml of ethylacetate, and adjusted to a pH of about 9-10 with sodium hydroxide in an ice bath while stirring. After completion of addition of sodium hydroxide, the fraction was stirred for an additional 1 hr, filtered, washed with water, and hot air dried to afford 137.4 g of the title compound (yield: 71.5%). 1H NMR (CDCl3) δ 8.26 (dd, 1H), 7.63 (dd, 1H), 7.36-7.28 (m, 5H), 6.59 (m, 1H), 5.0 (d, 1H), 4.14-3.97 (m, 1H), 3.53 (s, 2H), 2.88 (d, 2H), 2.22 (t, 2H), 2.1-1.98 (m, 2H), 1.68-1.47 (m, 2H) ppm.

reactant | 2-chloronicotinonitrile | 100 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | potassium carbonate | 108.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-amino-1-benzylpiperidine | 133.83 ml | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | HCl | Cl | ClH
solvent | ortho-xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 1,000 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-Benzylpiperidin-4-ylamino)nicotinic acid | 137.4 g, yield: 71.5% | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C(=O)O)C=CC=N1 | C18H21N3O2
